US07638536B2
To a solution of 1.96 g of 5-methylpyrazole-3-carboxylic acid ethyl ester in 40 ml of DMF, 2.64 g of potassium carbonate and 3.53 ml of 3-(tert-butyldimethylsilyloxy)propylbromide were added, and the mixture was stirred at 50° C. for 18 hours. The solvent was evaporated, EtOAc was added to the residue, and the organic layer was washed with water and brine and dried over sodium sulfate. After the evaporation of the solvent, the obtained residue was purified by silica gel column chromatography (eluent: hexane-EtOAc=15:1˜5:1) to obtain 1.39 g of 1-[3-(tert-butyldimethylsilyloxy)propoxyl]-5-methylpyrazole-3-carboxylic acid ethyl ester.

reactant | 5-methylpyrazole-3-carboxylic acid ethyl ester | 1.96 g | C(C)OC(=O)C1=NNC(=C1)C | C7H10N2O2
reactant | potassium carbonate | 2.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(tert-butyldimethylsilyloxy)propylbromide | 3.53 ml | [Si](C)(C)(C(C)(C)C)OCCCBr | C9H21BrOSi
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 1-[3-(tert-butyldimethylsilyloxy)propoxyl]-5-methylpyrazole-3-carboxylic acid ethyl ester | 1.39 g | C(C)OC(=O)C1=NN(C(=C1)C)OCCCO[Si](C)(C)C(C)(C)C | C16H30N2O4Si
